US09260425B2
A mixture of 3-(1H-pyrazol-3-yl)-5-(pyridin-3-yl)-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazolo[3,4-c]pyridine (44.0 mg, 0.13 mmol), 1-N—BOC-4-bromopiperidine (100.8 mg, 0.38 mmol), and Cesium Carbonate (124.3 mg, 0.38 mmol) in N,N-Dimethylformamide (5 mL) was heated at 100° C. for 7 days. The mixture was concentrated to afford tert-butyl 4-(3-(5-(pyridin-3-yl)-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazolo[3,4-c]pyridin-3-yl)-1H-pyrazol-1-yl)piperidine-1-carboxylate, which was used without purification.

reactant | 3-(1H-pyrazol-3-yl)-5-(pyridin-3-yl)-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazolo[3,4-c]pyridine | 0.13 mmol, 44.0 mg | N1N=C(C=C1)C1=NN(C2=CN=C(C=C21)C=2C=NC=CC2)C2OCCCC2 | C19H18N6O
reactant | 1-N—BOC-4-bromopiperidine | 0.38 mmol, 100.8 mg | C(=O)(OC(C)(C)C)N1CCC(CC1)Br | C10H18BrNO2
reactant | Cesium Carbonate | 0.38 mmol, 124.3 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | N,N-Dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | tert-butyl 4-(3-(5-(pyridin-3-yl)-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazolo[3,4-c]pyridin-3-yl)-1H-pyrazol-1-yl)piperidine-1-carboxylate | N1=CC(=CC=C1)C=1C=C2C(=CN1)N(N=C2C2=NN(C=C2)C2CCN(CC2)C(=O)OC(C)(C)C)C2OCCCC2 | C29H35N7O3
